US07576094B2
A suspension of 4-benzyloxy-2,3-dimethyl-phenol (960 mg), 1-methanesulfonyloxymethyl-cyclopropanecarboxylic acid ethyl ester, prepared as in Step 1 (890 mg) and cesium carbonate (1.5 g) in DMF (20 mL) was stirred at 130 ° C for 6 h, and the mixture was partitioned between EtOAc and water. The organic layer was washed with water, dried over MgSO4 and evaporated. The residue was purified by silica gel column eluting with 10% EtOAc in hexane to give 0.78 g of 1-(4-benzyloxy-2,3-dimethyl-phenoxymethyl)-cyclopropanecarboxylic acid ethyl ester as a clear oil.

reactant | 4-benzyloxy-2,3-dimethyl-phenol | 960 mg | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)O)C)C | C15H16O2
reactant | 1-methanesulfonyloxymethyl-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)COS(=O)(=O)C | C8H14O5S
reactant | cesium carbonate | 1.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-benzyloxy-2,3-dimethyl-phenoxymethyl)-cyclopropanecarboxylic acid ethyl ester | 0.78 g | C(C)OC(=O)C1(CC1)COC1=C(C(=C(C=C1)OCC1=CC=CC=C1)C)C | C22H26O4
